US07838674B2
1.f: 3-(2-Methoxy-ethoxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine
5-Bromo-3-(2-methoxy-ethoxy)-pyridine (6.7 g; 28.9 mmol), bis(pinacolato)diboron (8.8 g; 34.7 mmol), Pd(dppf)Cl2.CH2Cl2 (660 mg; 0.81 mmol) and KOAc (8.5 g; 86.7 mmol) in DMF (240 ml) are heated to 160° C. for 20 minutes. The reaction mixture is evaporated, dissolved in TBME, filtered and evaporated again to deliver the target compound as a semi-crystalline red-brown solid, which is used in the next step without further purification.

reactant | 5-Bromo-3-(2-methoxy-ethoxy)-pyridine | 28.9 mmol, 6.7 g | BrC=1C=C(C=NC1)OCCOC | C8H10BrNO2
reactant | bis(pinacolato)diboron | 34.7 mmol, 8.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.81 mmol, 660 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 86.7 mmol, 8.5 g | CC(=O)[O-].[K+]
solvent | DMF | 240 ml | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2-Methoxy-ethoxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | COCCOC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO4
